circuito conversor acdc
* NGSPICE simulation script
* forces current values to be saved
.options savecurrents


******************************************
* input voltage source
vin 1 0 0.0 sin (0.0 13.0855 50); 10 espiras 1:10
*vS 1 0 0 sin(0 14 100)
*vS 1 0 0 sin(0 5 400)

*Gb a b a b 0.05
*Hc 1 0 vin 0.05


* passa-alto ordem 1 a entrada 
Ci 2 4 8u
Ri 2 3 13.6k

* rectifier
Dp1 1 2 Default
Dp2 4 1 Default
Dp3 4 0 Default
Dp4 0 2 Default


*R5 50 4 1k


Dp5 3 5 Default
Dp6 5 6 Default
Dp7 6 7 Default
Dp8 7 8 Default 
Dp9 8 9 Default
Dp10 9 10 Default
Dp11 10 11 Default
Dp12 11 12 Default
Dp13 12 13 Default
Dp14 13 14 Default
Dp15 14 15 Default
Dp16 15 16 Default
Dp17 16 17 Default
Dp18 17 18 Default
Dp19 18 19 Default
Dp20 19 20 Default
Dp21 20 21 Default
Dp22 21 22 Default
Dp23 22 23 Default
Dp24 23 24 Default
Dp25 24 25 Default
Dp26 25 26 Default
Dp27 26 27 Default
Dp28 27 28 Default
Dp29 28 29 Default
Dp30 29 4 Default
*Dp31 30 4 Default
*Dp32 31 4 Default





.model Default D
.op
.end


.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0


******************************************
* analise temporal
tran 5e-4 10.2 10 2e-4
* tran 1e-5 10e-3

plot  v(3)-v(4)

******************************************
hardcopy acdc.ps v(3)-v(4)
echo acdc_FIG
hardcopy envelope.ps v(2)-v(4)
echo envelope_FIG
hardcopy deviation.ps v(3)-v(4)-12
echo deviation_FIG 
* hardcopy vospice400.ps v(1) v(2)

let cost = 13.6+8+3

let average = mean(v(3)-v(4))
let ripple = maximum(v(3)-v(4))-minimum(v(3)-v(4))
let deviation = abs(12-average)
let merit = 1/(cost*(ripple + deviation + 1e-6))

echo  "values_TAB"
print average
print deviation
print ripple
print cost
print merit
echo  "values_END"


.endc

