circuito do lab 1 tcfe
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* supply voltage
Vcc 1 0 dc 5.03865114929

*Resistors
R1 1 2 1.01072152255k
R2 2 3 2.0468229318k
R3 2 5 3.05917032304k
R4 0 5 4.1965026363k
R5 5 4 3.07879619547k
R6 0 6 2.08425994597k
R7 7 8 1.01419841564k

*More components (Id,Ib,Vc)
Id 8 4 dc 1.01596988715m
Gb 4 3 2 5 7.14516521228m

V2 6 7 dc 0
Hc 5 8 v2 8.13498446601k
.control

op

echo "********************************************"
echo  "Operating point Analysis"
echo "********************************************"
echo "op_TAB"
print all
echo "op_END"



quit
.endc

.end
